### PR TITLE
feat(VectorCalculus): Add div zero eq curl, curl zero eq grad.

### PR DESCRIPTION
**Pull request by jstoobysmith**
Added and proved the following two results. 

```lean 
lemma eq_curl_of_div_zero (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ 2 f)
    (hdiv : ∇ ⬝ f = 0) : ∃ g: Space → EuclideanSpace ℝ (Fin 3), f = curl g := by
  sorry
```
 and 
 
 ```lean 
 lemma eq_grad_of_curl_zero (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ 2 f)
    (hdiv : curl f = 0) : ∃ g : Space → ℝ, f = grad g := by
  sorry
 ```

### CODE REVIEW

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 1]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
 
 /-!
 
+### A.9. Div zero, then equal to curl
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
### A.9. A divergence-free field is a curl
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 2]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+
+/-- The homotopy operator is defined as `∫ t in 0..1, (t • x) ⨯ f (t • x)`.
+  This is the integrand of that function. -/
+private noncomputable def homotopyOperatorIntegrand (f : Space → EuclideanSpace ℝ (Fin 3)) :
+  Space → ℝ → EuclideanSpace ℝ (Fin 3) := fun x t => (t • basis.repr x) ⨯ₑ₃ f (t • x)
+
+private lemma homotopyOperatorIntegrand_eq (f : Space → EuclideanSpace ℝ (Fin 3)) :
+    homotopyOperatorIntegrand f = fun x t => (t • basis.repr x) ⨯ₑ₃ f (t • x) := by rfl
+@[fun_prop]
+private lemma homotopyOperatorIntegrand_differentiable_space {f : Space → EuclideanSpace ℝ (Fin 3)}
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
private lemma differentiable_homotopyOperatorIntegrand_space {f : Space → EuclideanSpace ℝ (Fin 3)}
```

I think mathlib convention is predicate first, "Most predicates should be added as prefixes. Eg IsClosed (Icc a b) should be called isClosed_Icc, not Icc_isClosed."

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 3]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+  simp [homotopyOperatorIntegrand]
+  refine differentiable_euclidean.mpr ?_
+  intro i
+  fin_cases i
+  all_goals
+  · simp [crossProduct]
+    fun_prop
+
+@[fun_prop]
+private lemma homotopyOperatorIntegrand_continuous_param {f : Space → EuclideanSpace ℝ (Fin 3)}
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean:304]:
```suggestion
private lemma continuous_homotopyOperatorIntegrand_param {f : Space → EuclideanSpace ℝ (Fin 3)}
```

same as above

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 4]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+  all_goals
+  · simp [crossProduct]
+    refine Continuous.fun_mul (by fun_prop) ?_
+    refine Continuous.sub ?_ ?_
+    all_goals
+    · apply Continuous.mul ?_ ?_
+      · fun_prop
+      · exact hf _
+
+private lemma homotopyOperatorIntegrand_intervalIntegrable {f : Space → EuclideanSpace ℝ (Fin 3)}
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
private lemma intervalIntegrable_homotopyOperatorIntegrand {f : Space → EuclideanSpace ℝ (Fin 3)}
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 5]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+  · change _ = t • (fderiv ℝ (EuclideanSpace.proj i ∘
+      (fun x => (WithLp.toLp 2 ((crossProduct (basis.repr x).ofLp) (f (t • x)).ofLp)))) x) y
+    rw [fderiv_comp]
+    simp only [ContinuousLinearMap.fderiv, ContinuousLinearMap.coe_comp', Function.comp_apply,
+      PiLp.proj_apply]
+    · fun_prop
+    · exact Differentiable.differentiableAt (cross_diff t)
+  rfl
+
+private lemma fderiv_homotopyOperatorIntegrand_zero_eq {f : Space → EuclideanSpace ℝ (Fin 3)}
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]: zero one two is just the same thing, is it possible to just take `(i : Fin 3)` and have a statement that works for all 3?

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 6]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+  rw [fderiv_homotopyOperatorIntegrand_eq_fderiv_crossProduct]
+  simp [crossProduct]
+  rw [fderiv_fun_sub (by fun_prop) (by fun_prop), fderiv_fun_mul (by fun_prop) (by fun_prop),
+    fderiv_fun_mul (by fun_prop) (by fun_prop)]
+  simp [fderiv_f]
+  ring_nf
+  simp only [true_or]
+  exact hf
+
+private lemma fderiv_homotopyOperatorIntegrand_uncurry_continuous
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
private lemma continuous_uncurry_fderiv_homotopyOperatorIntegrand
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 7]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+  have hf := hf.differentiable (by simp)
+  fin_cases i
+  · simp [fderiv_homotopyOperatorIntegrand_zero_eq hf]
+    fun_prop
+  · simp [fderiv_homotopyOperatorIntegrand_one_eq hf]
+    fun_prop
+  · simp [fderiv_homotopyOperatorIntegrand_two_eq hf]
+    fun_prop
+
+private lemma intervalIntegral_homotopyOperatorIntegrand_hasFDerivAt
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
private lemma hasFDerivAt_intervalIntegral_homotopyOperatorIntegrand
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 8]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+    grind
+  · apply Continuous.intervalIntegrable
+    fun_prop
+  · filter_upwards with t
+    intro h x hx
+    dsimp [F', F]
+    apply (homotopyOperatorIntegrand_differentiable_space _ _).differentiableAt.hasFDerivAt
+    exact hf.differentiable (by simp)
+
+private lemma deriv_sub_deriv_intervalIntegral_homotopyOperatorIntegrand
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
private lemma deriv_intervalIntegral_homotopyOperatorIntegrand_sub
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 9]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+    conv_rhs =>
+      enter [2, 2,1, 1, 2]
+      rw [hx]
+  · linear_combination (norm := {simp [Fin.sum_univ_three]; ring}) - t ^ 2 * x 0 * hdiv
+  · linear_combination (norm := {simp [Fin.sum_univ_three]; ring}) - t ^ 2 * x 1 * hdiv
+  · linear_combination (norm := {simp [Fin.sum_univ_three]; ring}) - t ^ 2 * x 2 * hdiv
+
+/-!
+
+### A.10. Curl zero, then equal to grad
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
### A.10. A curl-free field is a gradient
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 10]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+
+We show that if the curl of a function is zero, then it is equal to the gradient of some function.
+The key lemma here is
+`Convex.exists_forall_hasFDerivAt_of_fderiv_symmetric`, which is
+a more general version of this result in Mathlib. We turn this here into something
+more familiar, to the physicists.
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
more familiar to the physicists via `deriv_comm_of_curl_zero`.
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 11]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+    linear_combination (norm := ring_nf) hcurl'
+  · specialize hcurl' 1
+    simp [curl] at hcurl'
+    linear_combination (norm := ring_nf) hcurl'
+  · specialize hcurl' 0
+    simp [curl] at hcurl'
+    linear_combination (norm := ring_nf) -hcurl'
+
+open InnerProductSpace
+lemma eq_grad_of_curl_zero (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : Differentiable ℝ f)
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
lemma exists_grad_of_curl_zero (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : Differentiable ℝ f)
```

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 12]
```diff
@@ -256,6 +263,434 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+  rotate_left
+  · exact fun x => (hfderiv x).differentiableAt
+  · exact fun x => (hfderiv x).differentiableAt
+  rw [F'_apply_apply, F'_apply_apply, ← intervalIntegral.integral_sub]
+  · apply Continuous.intervalIntegrable
+    fun_prop
+  · apply Continuous.intervalIntegrable
+    fun_prop
+
+lemma eq_curl_of_div_zero (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ 1 f)
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
lemma exists_curl_of_div_zero (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ 1 f)
```
I think eq is a bit unclear, I prefer exists which matches the statement (Mathlib ref Convex.exists_forall_hasFDerivAt_of_fderiv_symmetric)

File: Physlib/SpaceAndTime/Space/Derivatives/Grad.lean [hunk 13]
```diff
@@ -262,6 +267,12 @@ lemma euclid_gradient_eq_sum {d} (f : EuclideanSpace ℝ (Fin d) → ℝ) (x : E
   funext i
   ring
 
+lemma hasGradientWithinAt_grad {d} (f : Space d → ℝ) (x : Space d)
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Grad.lean]:
```suggestion
lemma DifferentiableAt.hasGradientAt_grad {d} (f : Space d → ℝ) (x : Space d)
```
statement is just `hasGradientAt`? and this allows for `hf.hasGradientAt_grad`?

File: Physlib/SpaceAndTime/Space/Module.lean [hunk 14]
```diff
@@ -416,6 +417,28 @@ lemma fderiv_basis_repr_symm {d} (v : EuclideanSpace ℝ (Fin d)) :
   change fderiv ℝ basis.repr.symm.toContinuousLinearMap v = _
   rw [ContinuousLinearMap.fderiv]
 
+lemma basis_induction {d} {P : Space d → Prop}
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Module.lean]:
```suggestion
lemma basis_induction_on {d} {P : Space d → Prop}
```

compare mathlib `Matrix.induction_on`

File: Physlib/SpaceAndTime/Space/Module.lean [hunk 15]
```diff
@@ -515,6 +538,16 @@ lemma fderiv_val {d : ℕ} (p : Space d) :
   change fderiv ℝ (equivPi d) p = _
   rw [ContinuousLinearEquiv.fderiv]
 
+@[simp]
+lemma fderiv_of_val_apply {d : ℕ} (p y : Space d) (i : Fin d) :
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Module.lean]:
```suggestion
lemma fderiv_coord_apply {d : ℕ} (p y : Space d) (i : Fin d) :
```
not so sure about this, but this is about projection so probably should include in name. coord/proj/eval?

**Review by zhikaip — CHANGES_REQUESTED** [review]
Thanks for this! some naming changes that I want to get right, not 100% sure about all of them so feel free to push back

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean (hunk 2 above)
Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]: Ok, makes sense.

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean (hunk 5 above)
Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]: No, I don't think so, because of the nature of the curl, e.g. A 0 depends on x 1 and x 2 and A 2 on x 0 and x 1 etc. I'm not sure of a way to do this in one go.

File: Physlib/SpaceAndTime/Space/Module.lean (hunk 15 above)
Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/Module.lean]: Made it `fderiv_eval_apply`

**Comment by jstoobysmith** [comment]
@zhikaip think I have addressed all of your review comments here

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean [hunk 16]
```diff
@@ -6,6 +6,11 @@ Authors: Zhi Kai Pong, Joseph Tooby-Smith, Lode Vermeulen
 module
 
 public import Physlib.SpaceAndTime.Space.Derivatives.Laplacian
+public import Physlib.Meta.Linters.Sorry
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```suggestion
public import Physlib.Meta.Linters.Sorry
```

this is not need any more I think?

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean (hunk 5 above)
Comment (zhikaip) [reply Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]:
```
    fderiv ℝ (homotopyOperatorIntegrand f · t) x y i =
      t * (x (i+1) * t * fderiv ℝ f (t • x) y (i-1) + f (t • x) (i-1) * y (i+1) -
      (x (i-1) * t * fderiv ℝ f (t • x) y (i+1) + f (t • x) (i+1) * y (i-1))) := by
```

I think this works, but may need at add an extra line somewhere after `fin_cases`:
```
have : (-1 : Fin 3) = 2 := by rfl
try rw [this]
```
but this will work for all of 0 1 2. You can decide if it's better or worse, not sure

Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]: Nice. we should probably write down a general lemma for curl of this form at some point as well.

File: Physlib/SpaceAndTime/Space/Derivatives/Curl.lean (hunk 16 above)
Comment (jstoobysmith) [reply Physlib/SpaceAndTime/Space/Derivatives/Curl.lean]: Done

**Review by zhikaip — APPROVED** [review]
thanks! approved
